### PR TITLE
[Merged by Bors] - feat(AlgebraicGeometry): globalize flat + smooth fibers implies smooth

### PR DESCRIPTION
**Pull request by chrisflav**
We also globalize the corollary that étale = flat + unramified + locally of finite presentation.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicGeometry/Morphisms/SmoothFiber.lean [hunk 1]
```diff
@@ -0,0 +1,67 @@
...
+
+variable {X Y : Scheme.{u}} (f : X ⟶ Y)
+
+/-- If `f : X ⟶ Y` is locally of finite presentation, flat and has smooth fibers, then `f` is
+smooth. -/
+lemma Smooth.of_smooth_fiberToSpecResidueField [LocallyOfFinitePresentation f] [Flat f]
+    (h : ∀ y, Smooth (f.fiberToSpecResidueField y)) :
+    Smooth f := by
+  -- Prevents `wlog` going into an infinite typeclass search loop
+  change id _
```
Comment (joelriou) [inline Mathlib/AlgebraicGeometry/Morphisms/SmoothFiber.lean]: On my computer, this works:
```suggestion
```

File: Mathlib/AlgebraicGeometry/Morphisms/SmoothFiber.lean [hunk 2]
```diff
@@ -0,0 +1,67 @@
...
+  · rw [IsZariskiLocalAtSource.iff_of_openCover (P := @Smooth) X.affineCover]
+    intro i
+    have _ (y) : Smooth (pullback.snd f ((Spec R).fromSpecResidueField y)) :=
+      inferInstanceAs <| Smooth (f.fiberToSpecResidueField y)
+    refine this _ (fun y ↦ ?_) ⟨_, rfl⟩
+    rw [Scheme.Hom.fiberToSpecResidueField, ← pullbackRightPullbackFstIso_inv_snd_snd]
+    infer_instance
+  obtain ⟨S, rfl⟩ := h
+  obtain ⟨φ, rfl⟩ := Spec.map_surjective f
+  simp only [HasRingHomProperty.Spec_iff, id_eq] at *
```
Comment (joelriou) [inline Mathlib/AlgebraicGeometry/Morphisms/SmoothFiber.lean]:
```suggestion
  simp only [HasRingHomProperty.Spec_iff] at *
```

File: Mathlib/AlgebraicGeometry/Morphisms/SmoothFiber.lean (hunk 1 above)
Comment (chrisflav) [reply Mathlib/AlgebraicGeometry/Morphisms/SmoothFiber.lean]: Oh, thanks! This is because I changed the statement at some point during the proof (before that I had the assumption on the fibers as a typeclass assumption).
